### PR TITLE
feat: verification of `qsort` via `grind`

### PR DESCRIPTION
**Pull request by kim-em**
This PR adds a verification of `Array.qsort` properties, trying to use `grind` and `fun_induction` where possible.
Currently this is in the `tests/` folder, but once `grind` is ready for production use we will move it out into the library.

Note that the current `qsort` algorithm has quadratic behaviour on constant lists, and needs to be adjusted. We'll only move the verification out into the library once this has been fixed (and the proofs adapted). These verification theorems may be commented out in the meantime if it's urgent to fix `qsort`.

### CODE REVIEW

File: src/Init/Data/List/Perm.lean [hunk 1]
```diff
@@ -388,6 +388,11 @@ theorem cons_perm_iff_perm_erase {a : α} {l₁ l₂ : List α} :
   have : a ∈ l₂ := h.subset mem_cons_self
   exact ⟨this, (h.trans <| perm_cons_erase this).cons_inv⟩
 
+end LawfulBEq
+section DecidableEq
+
+variable [DecidableEq α]
+
```
Comment (Rob23oba) [inline src/Init/Data/List/Perm.lean:395]: Did that cause any problems? The reason I put it into `LawfulBEq` is because pretty much all the lemmas afterwards refer to a function with `BEq`, not `DecidableEq`. That makes this possible, which previously caused an error:
```lean
example {l₁ l₂ : List (List Nat)} : l₁.Perm l₂ ↔ ∀ a, l₁.count a = l₂.count a := by
  exact List.perm_iff_count
```

Comment (kim-em) [reply src/Init/Data/List/Perm.lean:400]: Sorry, this was just a mistake. I'll clean up before merging.
